US08431569B2
Step 5. 1-Cyclopropyl-2,2-difluoroethanaminium chloride
To a solution of N-(1-cyclopropyl-2,2-difluoroethyl)-2-methylpropane-2-sulfinamide (2.8 g, 12.4 mol) in MeOH (150 mL) was added dropwise 4 M HCl/dioxane (18.6 mL, 74.4 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum, and the solid was washed with Et2O, and dried to afford the title compound. 1H NMR (400 MHz, CD3OD) δ 6.25 (t, 1H); 2.90-3.00 (m, 1H); 1.02-1.12 (m, 1H); 0.78-0.82 (m, 2H); 0.58-0.68 (m, 2H).

reactant | N-(1-cyclopropyl-2,2-difluoroethyl)-2-methylpropane-2-sulfinamide | 12.4 mol, 2.8 g | C1(CC1)C(C(F)F)NS(=O)C(C)(C)C | C9H17F2NOS
reactant | HCl dioxane | 74.4 mmol, 4 M, 18.6 mL | Cl.O1CCOCC1
solvent | MeOH | 150 mL | CO | CH4O
product | 1-Cyclopropyl-2,2-difluoroethanaminium chloride | [Cl-].C1(CC1)C(C(F)F)[NH3+] | InChI=1S/C5H9F2N.ClH/c6-5(7)4(8)3-1-2-3;/h3-5H,1-2,8H2;1H
